US08975400B2
5-(2-fluoro-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)nicotinonitrile
Prepared in a manner similar to that described for E1 using NaH (5.90 mg, 0.246 mmol) in THF (5 mL) was added 5-(2-fluoro-4-(hydroxymethyl)phenoxy)n-icotinonitrile (30 mg, 0.12 mmol) and 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyr-imidin-5(1H)-one (22.8 mg, 0.123 mmol).

reactant | NaH | 0.246 mmol, 5.90 mg | [H-].[Na+]
reactant | 5-(2-fluoro-4-(hydroxymethyl)phenoxy)n-icotinonitrile | 0.12 mmol, 30 mg | FC1=C(OC=2C=NC=C(C#N)C2)C=CC(=C1)CO | C13H9FN2O2
reactant | 7-chloro-1-methyl-2,3-dihydroimidazo[1,2-c]pyr-imidin-5(1H)-one | 0.123 mmol, 22.8 mg | ClC=1C=C2N(C(N1)=O)CCN2C | C7H8ClN3O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 5-(2-fluoro-4-(((1-methyl-5-oxo-1,2,3,5-tetrahydroimidazo[1,2-c]pyrimidin-7-yl)oxy)methyl)phenoxy)nicotinonitrile | FC1=C(OC=2C=NC=C(C#N)C2)C=CC(=C1)COC=1C=C2N(C(N1)=O)CCN2C | C20H16FN5O3
